US05500406
Then, to 150 ml of a methanol solution containing 5.17 g (78.4 mmol) of 85% potassium hydroxide, 20 g (78.4 mmol) of 2-imino-1,3-dimethylimidazolidin-4-one hydroiodide was added, and the mixture was stirred at room temperature for 20 minutes. The solvent was distilled off under reduced pressure. Then, to the residue, 200 ml of chloroform was added, and insoluble matters were filtered off. The filtrate was dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure to obtain 9.0 g of 2-imino-1,3-dimethylimidazolidin-4-one.

reactant | potassium hydroxide | 78.4 mmol, 5.17 g | [OH-].[K+]
reactant | 2-imino-1,3-dimethylimidazolidin-4-one hydroiodide | 78.4 mmol, 20 g | I.N=C1N(CC(N1C)=O)C
solvent | methanol | 150 ml | CO | CH4O
product | 2-imino-1,3-dimethylimidazolidin-4-one | 9.0 g | N=C1N(CC(N1C)=O)C | C5H9N3O
